US07354932B2
Preparation of (4-tert-butoxycarbonylamino-3-(tert-butoxycarbonylamino-methyl)-but-2-enoic acid ethyl ester
To a solution of (3-tert-butoxycarbonylamino-2-oxo-propyl)-carbamic acid tert-butyl ester (310 mg, 1.08 mmol) in benzene (20 mL) was added (carbethoxymethylene)-triphenyl phosphorane (825 mg, 2.37 mmol) and the reaction mixture was stirred at 45° C. overnight. Then the mixture was cooled to room temperature and the solvent concentrated down. Purification by radical chromatography on silica gel (2 mm plate, using CH2Cl2) afforded the desired compound as a yellow oil (290 mg, 75%). 1H NMR (CDCl3) δ 1.26 (t, 3H, J=9.0 Hz), 1.42 (s, 18H), 3.87 (d, 2H, J=6.0 Hz), 4.09 (d, 2H, J=6.0 Hz), 4.15 (q, 2H, J=9.0 Hz), 5.34 (br s, 1H), 5.85 (s, 1H), 7.34 (s, 1H).

reactant | (3-tert-butoxycarbonylamino-2-oxo-propyl)-carbamic acid tert-butyl ester | 1.08 mmol, 310 mg | C(C)(C)(C)OC(NCC(CNC(=O)OC(C)(C)C)=O)=O | C13H24N2O5
reactant | (carbethoxymethylene)-triphenyl phosphorane | 2.37 mmol, 825 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 4-tert-butoxycarbonylamino-3-(tert-butoxycarbonylamino-methyl)-but-2-enoic acid ethyl ester | 290 mg, 75% | C(C)OC(C=C(CNC(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C)=O | C17H30N2O6
